2181-09-30 07:30:00 Physician Resident Progress Note
Chief Complaint: s/p pulmonary vein isolation for a-fib now with
   cardiac tamponade
   24 Hour Events:
   [**2181-9-29**]: TTE showed very small pericardial effusion, primarily anterior
   and apical. The effusion is echo dense, consistent with blood,
   inflammation or other cellular elements. There are no echocardiographic
   signs of tamponade. Pericardium drained 100cc overnight, about 100cc
   during day.
   Pulsus ~ 12.
   Vascular recommended repeat ultrasound in one month, if pseudoaneurysm
   >2 cm, pt will need f/u with Dr. [**Last Name (STitle) 6328**] for possible thrombin
   injection.
   AP portable:
   A pericardial drain is in place. Cardiac silhouette is upper limits of
   normal in size. Aorta is slightly unfolded. Lungs are clear except for
   minimal atelectasis at the right base.
   CT C/A/P:
   1. No retroperitoneal hematoma.
   2. No pericardial effusion with catheter in the pericardial space
   wrapping around the heart.
   3. A few ground-glass opacities throughout the lungs bilaterally, as
   described above. While these may represent focal areas of atelectasis,
   a six-month followup CT thorax is recommended to ensure stability or
   resolution.
   4. Unremarkable CT of the abdomen and pelvis
   Pt entered SVT around 20:00, rate ~160, regular, narrow, normotensive.
   appeared to be a.flutter with 2:1 conduction.  lopressor 5 mg x 1
   slowed rate to 140, repeated lopressor 5 mg x 2 without effect.
   diltiazem 10 mg x 1 showed flutter waves with 2:1 and 3:1 conduction,
   then rate returned to 140.  Amio 150 mg IV x 1 given, rate slowed to
   70s-80s, transiently hypotensive, then returned to rate of 130.  Repeat
   amio 150 mg IV x1 with infusion of 1 mg/hr now improving rate.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Morphine Sulfate - [**2181-9-29**] 03:15 PM
   Metoprolol - [**2181-9-29**] 10:09 PM
   Diltiazem - [**2181-9-29**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   persistent chest discomfort s/p pericardial drain placement, otherwise
   feeling well
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: Chest pain, Palpitations, No(t) Edema, Tachycardia,
   No(t) Orthopnea, chest pain [**2-12**] drain placement
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   non-productive
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Neurologic: No(t) Numbness / tingling
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-9-30**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 125 (76 - 150) bpm
   BP: 96/71(76) {73/45(55) - 114/73(83)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 66.4 kg (admission): 63 kg
   Height: 68 Inch
             Total In:
                                                                  1,990 mL
                                                                  1,364 mL
   PO:
                                                                  1,340 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    650 mL
                                                                  1,184 mL
   Blood products:
   Total out:
                                                                  1,032 mL
                                                                    370 mL
   Urine:
                                                                    788 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
                                                                    244 mL
                                                                     30 mL
   Balance:
                                                                    958 mL
                                                                    994 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ), anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: over left
   groin, no evidence of hematoma
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   150 K/uL
   10.6 g/dL
   151 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   17 mg/dL
   107 mEq/L
   137 mEq/L
   32.0 %
   15.2 K/uL
        [image002.jpg]
                             [**2181-9-28**]  02:20 PM
                             [**2181-9-28**]  08:45 PM
                             [**2181-9-28**]  09:48 PM
                             [**2181-9-29**]  05:01 AM
                             [**2181-9-29**]  03:20 PM
                             [**2181-9-30**]  05:30 AM
   WBC
   14.7
   14.2
   15.2
   Hct
   34.7
   36.5
   35.0
   35.2
   32.0
   Plt
   176
   159
   150
   Cr
   0.7
   0.6
   0.5
   Glucose
   131
   111
   142
   151
   Other labs: PT / PTT / INR:22.1/27.1/2.1, Differential-Neuts:87.4 %,
   Lymph:7.3 %, Mono:4.9 %, Eos:0.1 %, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.4 mg/dL
   Assessment and Plan
   67 yo F hx a-fib, COPD/asthma, osteoporosis, glaucoma, HLD p/w cardiac
   tamponade s/p pulmonary vein isolation procedure.
   .
   # CARDIAC TAMPONADE: Developed during EP procedure. Paracardiocentesis
   was performed and drain was put in place. 250cc fluid was drained.
   Hypotension developed and pt was supported with phenylephrine. Hct
   dropped 45--> 34.7. Followup Hct
s were stable. Pt was extubated,
   sedation and phenylephrine was weaned. Drainage is very sparse this
   morning. Pulsus ~[**10-24**].
   - Continue to monitor pericardial drainage and H/H
   - Echo to further evaluate pericardial fluid. Still draining too much
   to pull at this time
   - Continue to hold coumadin
   - Follow up EP recs
 will get CT of chest/abd/pelvis to evaluate for
   bleed -> no evidence of RP bleed
   - will likely pull drain today if continues to have minimul output,
   with TTE to follow several hours later
   .
   # left CFA pseudoaneurusm
 stable, evaluated by vascular [**Doctor First Name 91**]
   yesterday, appreciate recs
   - repeat u/s in 4 weeks
   -  if increased from 1.2 to >2 cm, pt may need thrombin injection
   .
   # RHYTHM: History of a-fib refractory to cardioversion and rate
   control.  Evidence of atypical atrial flutter overnight, beginning to
   respond to amio load.
   - Continue to monitor on tele
   - Amiodarone 400mg po qd for 2 weeks, cont amio IV load today
   - Will restart coumadin today
   -NPO at midnight for possible cardioversion tomorrow
   .
   # HYPERLIPIDEMIA: Start home Simvastatin 20 po qd.
   .
   # COPD/Asthma: Start home spiriva and albuterol inh.
   .
   # Osteoporosis: Start home Vitamin D.
   .
   # Glaucoma: would restart home eye drops.
   .
   FEN: replete K, mag.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS: no DVT ppx needed as INR is therapeutic. Can d/c
   pneumoboots.
   .
   CODE: Presumed full
   .
   COMM: patient.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-9-28**] 02:08 PM
   18 Gauge - [**2181-9-28**] 03:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 8693**].
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy.
   Total time spent on patient care: 40 minutes of critical care time.
   Additional comments:
   Date and time of visit - 9/20/9 at 11am.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2181-10-1**] 13:12 ------

2181-10-01 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  This AM patient reports that she is generally
   uncomfortable, but denies any specific chest pain, back pain, dypnea,
   groin pain.
   24 Hour Events:
   EP fellow unable to pull pericardial drain...appears adherent to
   pericardium.  Did not drain any fluid today.  Left in with plan to pull
   on monday.  Will discuss in AM...patient not yet on whiteboard for a
   room in cath lab.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-1**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 127 (96 - 128) bpm
   BP: 126/79(88) {87/46(60) - 138/88(94)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.4 kg (admission): 63 kg
   Height: 68 Inch
             Total In:
                                                                  2,672 mL
                                                                    271 mL
   PO:
                                                                  1,260 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,412 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                    450 mL
   Urine:
                                                                  1,685 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                    957 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, uncomfortable
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, irregular.
   Pericardial drain in place. Drain site, clean, dry, intact.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   169 K/uL
   11.2 g/dL
   106 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   15 mg/dL
   105 mEq/L
   140 mEq/L
   33.5 %
   12.6 K/uL
        [image002.jpg]
                             [**2181-9-28**]  02:20 PM
                             [**2181-9-28**]  08:45 PM
                             [**2181-9-28**]  09:48 PM
                             [**2181-9-29**]  05:01 AM
                             [**2181-9-29**]  03:20 PM
                             [**2181-9-30**]  05:30 AM
                             [**2181-10-1**]  04:08 AM
   WBC
   14.7
   14.2
   15.2
   12.6
   Hct
   34.7
   36.5
   35.0
   35.2
   32.0
   33.5
   Plt
   176
   159
   150
   169
   Cr
   0.7
   0.6
   0.5
   0.5
   Glucose
   131
   111
   142
   151
   106
   Other labs: PT / PTT / INR:15.8/25.0/1.4, Differential-Neuts:87.4 %,
   Lymph:7.3 %, Mono:4.9 %, Eos:0.1 %, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
   67 yo F hx a-fib, COPD/asthma, osteoporosis, glaucoma, HLD p/w cardiac
   tamponade s/p pulmonary vein isolation procedure.
   .
   # CARDIAC TAMPONADE: Developed during EP procedure. Paracardiocentesis
   was performed and drain was put in place. 250cc fluid was drained.
   Hypotension developed and pt was supported with phenylephrine. Hct
   dropped 45--> 34.7. Followup Hct
s were stable. Pt was extubated,
   sedation and phenylephrine was weaned.
   - Attempt was made yesterday to pull peridcardiocentesis drain which
   was unsuccessful as drain appeared to be adhesed to pericardium. Plan
   is for removal today under fluoroscopy in cath lab. Will coordinate
   with CT [**Doctor First Name 91**] and ECHO so that they are available in the event of
   complications during attempted drain removal.
   - TTE during/after drain removal
   - Hct 33.5 this AM (stable)
   - no evidence of RP bleed
   - Coumadin restarted yesterday
   .
   # left CFA pseudoaneurusm
 stable, evaluated by vascular [**Doctor First Name 91**]
   yesterday, appreciate recs
   - repeat u/s in 2 weeks at vascular f/u
   -  if increased from 1.2 to >2 cm, pt may need thrombin injection
   .
   # RHYTHM: History of a-fib refractory to cardioversion and rate
   control.  Evidence of atypical atrial flutter overnight, beginning to
   respond to amio load.
   - Continue to monitor on tele
   - Continuing Amiodarone 400mg po qd for 2 weeks
   - Coumadin restarted yesterday
   - INR subtherapeutic this morning (1.4)
   -Will defer cardioversion today. Plan for cardioversion tomorrow giving
   subtherapeutic INR, planned drain removal today.
   .
   # HYPERLIPIDEMIA: Continuing home Simvastatin 20 po qd.
   .
   # COPD/Asthma: Continuing home spiriva and albuterol inh.
   .
   # Osteoporosis: Continuing home Vitamin D.
   .
   # Glaucoma: Contiuing eye drops.
   .
   # Conditioning: Will order PT consult today
   .
   FEN: replete K, mag.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS: no DVT ppx needed as INR is therapeutic. Can d/c
   pneumoboots.
   .
   CODE: Presumed full
   .
   COMM: patient.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-9-28**] 02:08 PM
   22 Gauge - [**2181-9-30**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Date/time of visit was 9/21/9 at 12:30.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2181-10-1**] 13:14 ------

2181-10-02 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PT consult. Added Senna, Docusate. Pt went to OR for pull of
   pericardial drain - pulled without complication and returned to ICU.
   Continued to be in AF/AT with variable rate, hemodynamically stable.
   Plan for cardioversion today, no TEE per EP, heparin gtt started.
   L IJ removed.
   Pt NPO for procedure in AM.
   Patient reports feeling generally weak this AM.  Denies CP, SOB,
   dizziness, palpitations.  No BM x 4 days, + flatus.  Otherwise, no new
   complaints.
   Tele: variable, fast A fib 120-140s.  No significant ectopy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-2**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 128 (116 - 145) bpm
   BP: 104/61(73) {84/33(47) - 149/94(104)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 67.2 kg (admission): 63 kg
   Height: 68 Inch
             Total In:
                                                                  2,256 mL
                                                                     83 mL
   PO:
                                                                    690 mL
             TF:
   IVF:
                                                                  1,566 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    725 mL
   Urine:
                                                                  3,210 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -954 mL
                                                                   -642 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.49/31/557/29/2
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, atraumatic. OP clear. IJ site
   slightly ecchymotic with dressing c/d/i
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Irreg
   irregular.  No murmur, rub or gallop appreciated.  Pericardial drain
   site with dressing c/d/i
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   213 K/uL
   10.4 g/dL
   119 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   13 mg/dL
   106 mEq/L
   143 mEq/L
   31.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2181-9-28**]  02:20 PM
                             [**2181-9-28**]  08:45 PM
                             [**2181-9-28**]  09:48 PM
                             [**2181-9-29**]  05:01 AM
                             [**2181-9-29**]  03:20 PM
                             [**2181-9-30**]  05:30 AM
                             [**2181-10-1**]  04:08 AM
                             [**2181-10-1**]  02:38 PM
                             [**2181-10-2**]  03:04 AM
   WBC
   14.7
   14.2
   15.2
   12.6
   11.2
   Hct
   34.7
   36.5
   35.0
   35.2
   32.0
   33.5
   32
   31.9
   Plt
   176
   159
   150
   169
   213
   Cr
   0.7
   0.6
   0.5
   0.5
   0.7
   TropT
   0.15
   TCO2
   24
   Glucose
   131
   111
   142
   151
   106
   106
   119
   Other labs: PT / PTT / INR:20.8/25.0/1.9, CK / CKMB /
   Troponin-T://0.15, ALT / AST:62/36, Alk Phos / T Bili:56/1.1, Amylase /
   Lipase:48/32, Differential-Neuts:87.4 %, Lymph:7.3 %, Mono:4.9 %,
   Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:3.4 g/dL, LDH:217 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   67 yo F hx a-fib, COPD/asthma, osteoporosis, glaucoma, HLD p/w cardiac
   tamponade s/p pulmonary vein isolation procedure.
   .
   # RHYTHM: History of a-fib refractory to cardioversion and rate
   control.  Evidence of atrial tachycardia intermittently.  Continues to
   be tachycardic with variable rate.  Amio loaded and converted to PO.
   - Continue to monitor on tele
   - Continuing Amiodarone 400mg po qd for 2 weeks
   - Heparin gtt started at 2100 yesterday, with coumadin continuing.
   - INR subtherapeutic this morning (1.9)
   - Plan for cardioversion today
   .
   # CARDIAC TAMPONADE: Developed during EP procedure. Paracardiocentesis
   was performed and drain was put in place. 250cc fluid was drained.
   Hypotension developed and pt was supported with phenylephrine. Hct
   dropped 45--> 34.7. Followup Hct
s were stable. Pt was extubated,
   sedation and phenylephrine was weaned.  Attempt was made [**9-30**] to pull
   peridcardiocentesis drain which was unsuccessful as drain appeared to
   be adhesed to pericardium.  Drain was removed yesterday under
   fluoroscopy in cath lab.
   - TTE during/after drain removal showed: There normal (LVEF>55%). with
   mild global RV free wall hypokinesis. Mild AR and MR, and no
   reaccumulation of fluid in pericardial space post drain pull
   - Hct 31.9 this AM (stable)
   - no evidence of RP bleed
   .
   # left CFA pseudoaneurusm
 stable, evaluated by vascular [**Doctor First Name 91**],
   appreciate recs
   - repeat u/s in 2 weeks at vascular f/u
   -  if increased from 1.2 to >2 cm, pt may need thrombin injection
   ..
   # U/A pos yesterday, patient asymptomatic.
   - pull foley today, low threshold to start abx today if febrile or WBC
   trending up.
   .
   # HYPERLIPIDEMIA: Continuing home Simvastatin 20 po qd.
   .
   # COPD/Asthma: Continuing home spiriva and albuterol inh.
   .
   # Osteoporosis: Continuing home Vitamin D.
   .
   # Glaucoma: Contiuing home eye drops.
   .
   # Conditioning: PT consulted.  Plan for patient OOB today post
   cardioversion.
   .
   FEN: replete K, mag prn
   -senna, colace added yesterday with no BM.  Will add miralax today.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS. DVT ppx currently coumadin and heparin gtt
   .
   CODE: Presumed full
   .
   COMM: patient.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-9-30**] 03:00 PM
   16 Gauge - [**2181-10-1**] 12:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date/time of service was 9/22/9 at 11am. Critically ill due to
   hemopericardium, atrial tachycardia, atrial fibrillation, acute
   diastolic CHF.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2181-10-3**] 09:19 ------

2181-10-03 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2181-10-2**]:
   D/C'd foley. Cardioverted and briefly in sinus tach with ectopy, but
   then back in atrial tach/a.fib within a few hours. No plan for repeat
   cardioversion today.  Received extra bolus of amio 150 mg IV x 2, and
   metoprolol 25 po bid.  . Changed Amio to 600 po qd.  (has gotten total
   4300 mg amio while inpatient.) Heparin d/c'd after procedure.
   .
   Pt had recurrent a.fib/atrial tach.  Received total of lopressor 5 mg x
   5 (2 doses ~ 0200, 3 doses ~ 0500), and metoprolol 200 mg PO over 15
   hours. Rhythm initially controlled with boluses, but has been in and
   out of SVT overnight. Pt scheduled for metoprolol 75 mg TID currently.
   .
   This AM, patient reports feeling well. No CP, palp, SOB.  Had several
   BMs overnight. OOB to commode several times. UA still positive this
   morning but denies any urinary symptoms. Otherwise no new complaints
   but feels deconditioned and unsteady on feet.
   .
   Tele: A fib/A Tach (rate ranges 80s to 140s), no significant ectopy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Propofol - [**2181-10-2**] 09:05 AM
   Metoprolol - [**2181-10-3**] 04:45 AM
   Other medications:
   Changes to medical and family history: none.
   Review of systems is unchanged from admission except as noted below
   Review of systems: no change.
   Flowsheet Data as of  [**2181-10-3**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C ([**Age over 90 **]
F) at midnight
   Tcurrent: 37.2
C (98.9
   HR: 79 (79 - 151) bpm
   BP: 98/65(73) {94/57(69) - 160/124(134)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 96% on RA
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.2 kg (admission): 63 kg
   Height: 68 Inch
                  Total In:
                                                                  1,051 mL
                                                                    240 mL
   PO:
                                                                    660 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    160 mL
   Urine:
                                                                  1,875 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -824 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, atraumatic. OP clear. IJ site
   slightly ecchymotic with dressing c/d/i
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Irreg
   irregular.  No murmur, rub or gallop appreciated.  Pericardial drain
   site with dressing c/d/i
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present.  No suprapubic
   tenderness.
   Back: no CVA tenderness
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3
   Labs / Radiology
   284 K/uL
   11.0 g/dL
   130 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.5 mEq/L
   18 mg/dL
   104 mEq/L
   142 mEq/L
   34.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2181-9-28**]  02:20 PM
                             [**2181-9-28**]  08:45 PM
                             [**2181-9-28**]  09:48 PM
                             [**2181-9-29**]  05:01 AM
                             [**2181-9-29**]  03:20 PM
                             [**2181-9-30**]  05:30 AM
                             [**2181-10-1**]  04:08 AM
                             [**2181-10-1**]  02:38 PM
                             [**2181-10-2**]  03:04 AM
                             [**2181-10-3**]  05:15 AM
   WBC
   14.7
   14.2
   15.2
   12.6
   11.2
   12.4
   Hct
   34.7
   36.5
   35.0
   35.2
   32.0
   33.5
   32
   31.9
   34.4
   Plt
   176
   159
   150
   169
   213
   284
   Cr
   0.7
   0.6
   0.5
   0.5
   0.7
   0.7
   TropT
   0.15
   TCO2
   24
   Glucose
   131
   111
   142
   151
   106
   106
   119
   130
   Other labs: PT / PTT / INR:33.4/26.9/3.4, CK / CKMB /
   Troponin-T://0.15, ALT / AST:62/36, Alk Phos / T Bili:56/1.1, Amylase /
   Lipase:48/32, Differential-Neuts:87.4 %, Lymph:7.3 %, Mono:4.9 %,
   Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:3.4 g/dL, LDH:217 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   67 yo F hx a-fib, COPD/asthma, osteoporosis, glaucoma, HLD p/w cardiac
   tamponade s/p pulmonary vein isolation procedure.
   .
   # RHYTHM: History of a-fib refractory to cardioversion and rate
   control.  Evidence of atrial tachycardia intermittently.  Continues to
   be tachycardic with variable rate.  Amio loaded and converted to PO.
   Cardioversion yesterday unsuccessful.
   - Continue to monitor on tele
 rate controlled last night after
   getting several doses of metoprolol
   - Will increase metoprolol to 75 mg q6
 monitor BP
   - Continuing Amiodarone 600mg po qd for 2 weeks
   - Heparin gtt off
   - INR supratherapeutic this morning (3.4), holding coumadin today.
   Will decrease to 2.5 daily (was previously on 2.5/5.0 alternating days)
   - Will discuss rate control with EP, consider starting diltiazem
   .
   # U/A pos [**10-2**], patient asymptomatic. Foley removed. U/A this morning
   is also positive with low grade temp.
   - started bactrim with plan for 7 day course
   - f/u urine cx
   .
   # Left CFA pseudoaneurusm: stable, evaluated by vascular [**Doctor First Name 91**],
   appreciate recs.
   - Repeat u/s in 2 weeks at vascular f/u
   - if increased from 1.2 to >2 cm, pt may need thrombin injection
   .
   # CARDIAC TAMPONADE: Developed during EP procedure. Paracardiocentesis
   was performed and drain was put in place. 250cc fluid was drained.
   Hypotension developed and pt was supported with phenylephrine. Hct
   dropped 45--> 34.7. Followup Hct
s were stable. Pt was extubated,
   sedation and phenylephrine was weaned.  Attempt was made [**9-30**] to pull
   peridcardiocentesis drain which was unsuccessful as drain appeared to
   be adhesed to pericardium.  Drain was removed [**10-1**] under fluoroscopy in
   cath lab.
   - TTE during/after drain removal showed: There normal (LVEF>55%). with
   mild global RV free wall hypokinesis. Mild AR and MR, and no
   reaccumulation of fluid in pericardial space post drain pull
   - Hct stable, continuing to follow
   - no evidence of RP bleed
   .
   # HYPERLIPIDEMIA: Continuing home Simvastatin 20 po qd.
   .
   # COPD/Asthma: Continuing home spiriva and albuterol inh.
   .
   # Osteoporosis: Continuing home Vitamin D.
   .
   # Glaucoma: Continuing home eye drops.
   .
   # Conditioning: PT consulted.  Plan for patient OOB today post
   cardioversion.
   .
   FEN: replete K, mag prn
   -senna, colace and miralax.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS. DVT ppx currently coumadin and heparin gtt
   .
   CODE: Presumed full
   .
   COMM: patient.
   .
   DISPO: CCU for now, will consider callout to [**Hospital Ward Name **] 3 later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-9-30**] 03:00 PM
   16 Gauge - [**2181-10-1**] 12:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Date/time of service was 9/23/9 at 1215. Critically ill due to
   hemopericardium, acute pericardial tamponade, acute diastolic CHF,
   atrial fibrillation.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2181-10-4**] 16:28 ------